US07138425B2
a) 2-(3-Nitro-4-methoxyphenyl)-5-(4-acetylphenyl)benzoxazole
Prepared by the method of Example 15d), from 2-(3-nitro-4-methoxyphenyl)-5-bromobenzoxazole (200 mg, 0.57 mmol) and 4-acetylphenylboronic acid (139 mg, 0.85 mmol) the subtitle compound was obtained (119 mg, 36%). 1H NMR (DMSO) δ 8.64(d, 1H), 8.46(dd, 1H), 8.16(d, 1H), 8.06(d, 2H), 7.93–7.90(m, 3H), 7.81(dd, 1H), 7.63(d, 1H), 4.05(s, 3H), 2.63(s, 3H).

reactant | 2-(3-nitro-4-methoxyphenyl)-5-bromobenzoxazole | 0.57 mmol, 200 mg | [N+](=O)([O-])C=1C=C(C=CC1OC)C=1OC2=C(N1)C=C(C=C2)Br | C14H9BrN2O4
reactant | 4-acetylphenylboronic acid | 0.85 mmol, 139 mg | C(C)(=O)C1=CC=C(C=C1)B(O)O | C8H9BO3
product | 2-(3-Nitro-4-methoxyphenyl)-5-(4-acetylphenyl)benzoxazole | [N+](=O)([O-])C=1C=C(C=CC1OC)C=1OC2=C(N1)C=C(C=C2)C2=CC=C(C=C2)C(C)=O | C22H16N2O5
